US07883828B2
Allylmalonic acid di-tetrahydropyranyl ester was prepared. Allylmalonic acid (7.21 grams, 0.05 mole), 3,4-dihydro-2H-pyran (16.82 g, 0.20 mole), and dichloromethane (50 ml) were placed in a round bottom flask equipped with a magnetic stirrer, nitrogen inlet, and a water condenser. Pyridine p-toluenesulfonate (300 mg) was added to this mixture and stirred at room temperature for 3 hours. According to the IR spectrum of the reaction product, the reaction was complete. The reaction mixture was washed with 2×100 ml saturated sodium bicarbonate solution followed by 100 ml brine and was dried over anhydrous magnesium sulfate. The volatiles were removed in a rotary evaporator and the residue was dried tinder vacuum at room temperature. The NMR spectrum of the residue indicated that it contained only the desired product.

reactant | Allylmalonic acid | 0.05 mole, 7.21 grams | C(C=C)C(C(=O)O)C(=O)O | C6H8O4
reactant | 3,4-dihydro-2H-pyran | 0.20 mole, 16.82 g | O1CCCC=C1 | C5H8O
reactant | Pyridine p-toluenesulfonate | 300 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1=CC=CC=C1
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Allylmalonic acid di-tetrahydropyranyl ester | O1C(CCCC1)OC(C(C(=O)OC1OCCCC1)CC=C)=O | C16H24O6
